US06358971B1
2-Fluoro-6-trifluoromethylmandelic acid
The 2-fluoro-6-trifluoromethylbenzaldehyde (48.4 g, 252 mmol) was converted to product in a manner substantially analogous to Preparation 59 to yield 49.7 g. (84%). EA, MS(FD).

reactant | 2-fluoro-6-trifluoromethylbenzaldehyde | 252 mmol, 48.4 g | FC1=C(C=O)C(=CC=C1)C(F)(F)F | C8H4F4O
reactant | EA | CC(OCC)=O | C4H8O2
product | 2-Fluoro-6-trifluoromethylmandelic acid | FC1=C(C(C(=O)O)O)C(=CC=C1)C(F)(F)F | C9H6F4O3
